US05015640
starting from methyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate and p-fluorobenzoyl chloride, there is obtained methyl N-(p-fluorobenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate, m.p. 136°-137.5° C.;

reactant | methyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OC)=N | C16H16N2O
reactant | p-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | methyl N-(p-fluorobenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | FC1=CC=C(C(=O)N=C(OC)N2CC3=C(C4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C23H19FN2O2
